* C:\Users\mike\OneDrive\Documents\GitHub\PSE_Spice\PSEv11_Calibration.asc
R2B N010 N008 {RFA}
R1B N014 N015 {RFA}
R3B N011 N010 {RFB}
R4B N013 N014 {RFB}
R5B N012 N013 {RS}
C1B N011 N010 {Ccomp}
C2B N013 N014 {Ccomp}
R6B N012 N011 {RS}
B3 N009 0 V=0.5*V(V+)
R1A N001 N003 {RFA}
R2A N006 N008 {RFA}
R3A N002 N001 {RFB}
R4A N005 N006 {RFB}
R5A N004 N005 {RS}
C1A N002 N001 {Ccomp}
C2A N005 N006 {Ccomp}
R6A N004 N002 {RS}
XU1 N006 N001 v+ 0 N004 ADA4091
XU2 N014 N010 v+ 0 N012 ADA4091
VDD V+ 0 5
R7A E1 N005 1m
R7B E2 N013 1m
R§VIEZ VIE N009 47
B1A N008 0 V=V(VR)-V(ZeroHz)*RS*RFA/RFB
E§VR VR 0 V+ 0 0.5
V§OffsetA N015 VR PWL(0 0 100m 5m 300m -5m)
V§OffsetB N003 VR 0
V1 N007 0 0
E1 ZeroHz 0 N007 0 0.001
V2 CAP_BYP 0 1
V3 REBAL1 0 0
V4 REBAL2 0 0
V5 IE_EN 0 1
RCA E1 N009 1k
RCB VIE E2 1K
.tran 3s
.param RS=51.0
.param RL=500
.param RFA=100k
.param RFB=100k
.param Ccomp=2.9p
.model NCSW SW(Ron=1G Roff=.0001 Vt=0.5)
.model NOSW SW(Ron=.0001 Roff=10G Vt=0.5)
.param Offset=-21u
.param RBALR=100K
.ic V(E1)=2.5
.ic V(E2)=2.5
.lib ADI.lib
.backanno
.end
